US08431695B2
Preparation of 5-(2-benzyl-2H-indazol-6-yl)-7-{1-[(4-methylpiperazin-1-yl)carbonyl]pyrrolidin-3-yl}pyrrolo[2,1-f][1,2,4]triazin-4-amine
To a solution of 5-(2-benzyl-2H-indazol-6-yl)-7-pyrrolidin-3-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (60 mg, 0.147 mmol) in CH2Cl2 (2 mL), the solution made in Step 1 of 4-methylpiperazine-1-carbonyl chloride (62 mg, 0.163 mmol) was added. The reaction mixture was stirred at rt overnight. The reaction was then partitioned between EtOAc (50 mL) and 10% aqueous potassium carbonate. (20 mL). The aqueous layer was extracted with EtOAc (20 mL). The combined organic layers were washed with brine, dried with sodium sulfate and concentrated under vacuum. The residue was triturated with ether to yield 16 mg (20%) of product. 1H NMR (300 MHz, DMSO-d6) δ 8.54 (s, 1 H), 7.91 (s, 1 H), 7.78 (d 1 H), 7.58 (s, 1 H), 7.33 (m, 5 H), 7.13 (d, 1 H), 6.66 (s, 1 H), 5.64 (s, 2 H), 3.90 (m, 1 H), 3.60-3.30 (m, 8 H), 2.50-2.00 (m, 9 H); ES-MS m/z 536.3 [M+H]+, HPLC RT (min) 2.13.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-pyrrolidin-3-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.147 mmol, 60 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CNCC2 | C24H23N7
reactant | 4-methylpiperazine-1-carbonyl chloride | 0.163 mmol, 62 mg | CN1CCN(CC1)C(=O)Cl | C6H11ClN2O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-benzyl-2H-indazol-6-yl)-7-{1-[(4-methylpiperazin-1-yl)carbonyl]pyrrolidin-3-yl}pyrrolo[2,1-f][1,2,4]triazin-4-amine | 16 mg, 20% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CN(CC2)C(=O)N2CCN(CC2)C | C30H33N9O
